US09359358B2
Step 7: [6-[(cis-4-{3-(Cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}cyclohexyl)oxy]-2-(trifluoromethyl)pyrimidin-4-yl]methyl methanesulfonate
{1-(cis-4-{[6-(Hydroxymethyl)-2-(trifluoromethyl)pyrimidin-4-yl]oxy}cyclohexyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile (110.0 mg, 0.1609 mmol) was dissolved in methylene chloride (2.22 mL) and was cooled to 0° C. To that was added N,N-diisopropylethylamine (45.8 μL, 0.263 mmol), followed by methanesulfonyl chloride (18 μL, 0.23 mmol). The reaction was stirred at 0° C. for 1 hour. The reaction was worked up using EtOAc and used in the next reaction. MS (ES): 762 (M+1).

reactant | {1-(cis-4-{[6-(Hydroxymethyl)-2-(trifluoromethyl)pyrimidin-4-yl]oxy}cyclohexyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile | 0.1609 mmol, 110.0 mg | OCC1=CC(=NC(=N1)C(F)(F)F)O[C@H]1CC[C@H](CC1)N1CC(C1)(N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C)CC#N | C32H40F3N9O3Si
reactant | N,N-diisopropylethylamine | 0.263 mmol, 45.8 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulfonyl chloride | 0.23 mmol, 18 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | methylene chloride | 2.22 mL | C(Cl)Cl | CH2Cl2
product | [6-[(cis-4-{3-(Cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}cyclohexyl)oxy]-2-(trifluoromethyl)pyrimidin-4-yl]methyl methanesulfonate | CS(=O)(=O)OCC1=NC(=NC(=C1)O[C@@H]1CC[C@@H](CC1)N1CC(C1)(N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C)CC#N)C(F)(F)F | C33H42F3N9O5SSi
